US04564479
The procedure described in Example 26 is repeated, but using 5.05 g (25 mmols) of 4-bromonitrobenzene and 2.99 ml (27.5 mmols) of ethyl acrylate. After a reaction time of 3 hours at 130° C., 4.86 g (22.0 mmols) of ethyl 4-nitrocinnamate are obtained, corresponding to a yield of 88% of theory (conversion figure 8800; Pd content 0.01 mol %).

reactant | 4-bromonitrobenzene | 25 mmols, 5.05 g | BrC1=CC=C(C=C1)[N+](=O)[O-] | C6H4BrNO2
reactant | ethyl acrylate | 27.5 mmols, 2.99 ml | C(C=C)(=O)OCC | C5H8O2
catalyst | Pd | [Pd] | Pd
product | ethyl 4-nitrocinnamate | 22.0 mmols, 4.86 g, yield of 88% | [N+](=O)([O-])C1=CC=C(C=CC(=O)OCC)C=C1 | C11H11NO4
